US04988723
A mixture of trans-4-(2-cyanoiminohexahydropyrimidin-1-yl)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (651 mg) and acetic anhydride (0.76 ml) in pyridine (2 ml) was stirred for 7 days at room temperature. The mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate, washed twice with water and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo and the residue was pulverized with diisopropyl ether to give trans-3-acetoxy-4-(2-cyanoiminohexahydropyrimidin-1-yl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6carbonitrile (0.76 g).

reactant | trans-4-(2-cyanoiminohexahydropyrimidin-1-yl)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 651 mg | C(#N)N=C1N(CCCN1)[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C17H19N5O2
reactant | acetic anhydride | 0.76 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | trans-3-acetoxy-4-(2-cyanoiminohexahydropyrimidin-1-yl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6carbonitrile | 0.76 g | C(C)(=O)O[C@@H]1C(OC2=C([C@H]1N1C(NCCC1)=NC#N)C=C(C=C2)C#N)(C)C | C19H21N5O3
